US08835420B2
Step A: (S)-4-Methyl-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
To a round bottomed flask was added (S)-1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine 2,2,2-trifluoroacetate (364 mg, 0.986 mmol) in THF (6400 μL) along with 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carbonitrile (197 mg, 0.986 mmol) and Et3N (302 μL, 2.168 mmol). The reaction mixture was stirred at room temperature overnight and was subsequently purified on silica, eluting with a gradient of EtOAc/hexanes (2:8 to 9:1) to give the title compound as a clear film (270 mg, 65.5%). ESI-MS m/z [M+H]+ calc'd for C21H22N8S 419.17; found 419.4.

reactant | (S)-1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine 2,2,2-trifluoroacetate | 0.986 mmol, 364 mg | FC(C(=O)O)(F)F.CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N
reactant | 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carbonitrile | 0.986 mmol, 197 mg | ClC1=NC(=NC(=C1C#N)C)SC | C7H6ClN3S
reactant | Et3N | 2.168 mmol, 302 μL | CCN(CC)CC | C6H15N
solvent | THF | 6400 μL | C1CCOC1 | C4H8O
product | (S)-4-Methyl-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | CC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)SC | C21H22N8S
